US08383819B2
Under a nitrogen atmosphere, 5-(3-chloro-2-fluorobenzyl)-2,4-dimethoxybenzoic acid (4.7 g) was dissolved in DMF/toluene solution (25 mL) (DMF concentration: 300 ppm). Thionyl chloride (2.1 g) was added dropwise to this solution at 75° C. After stirring at 75° C. for 1 hr, completion of the reaction was confirmed by HPLC. Toluene and excess thionyl chloride were evaporated under reduced pressure. Toluene (20 mL) was added to the concentrated residue, and the mixture was concentrated again under reduced pressure to give 5-(3-chloro-2-fluorobenzyl)-2,4-dimethoxybenzoic acid chloride (5.07 g). THF (15 mL) was added thereto to give a suspension of acid chloride (5-(3-chloro-2-fluorobenzyl)-2,4-dimethoxybenzoic acid chloride) in THF, which was directly used in the next step.

reactant | 5-(3-chloro-2-fluorobenzyl)-2,4-dimethoxybenzoic acid | 4.7 g | ClC=1C(=C(CC=2C(=CC(=C(C(=O)O)C2)OC)OC)C=CC1)F | C16H14ClFO4
reactant | Thionyl chloride | 2.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | DMF toluene | 25 mL | CN(C)C=O.C1(=CC=CC=C1)C
product | 5-(3-chloro-2-fluorobenzyl)-2,4-dimethoxybenzoic acid chloride | 5.07 g | ClC=1C(=C(CC=2C(=CC(=C(C(=O)Cl)C2)OC)OC)C=CC1)F | C16H13Cl2FO3
